US06395731B1
To a solution of 1-(6-chloronaphth-2-ylsulphonyl)-4-[4-(2-tert-butyloxycarbonylaminomethyl-pyridyl)benzoyl]piperazine (90 mg, 1.45 mmol) in tetrahydrofuran (2 ml) was added ˜4M methanolic HCl (2 ml) and the resultant mixture stirred for four hours at ambient temperature. Removal of the solvent, after filtration, gave 1-(6-chloronaphth-2-ylsulphonyl)-4-[4-(2-aminomethyl-pyridyl)benzoyl]piperazine (75 mg, 1.35 mmol).

reactant | 1-(6-chloronaphth-2-ylsulphonyl)-4-[4-(2-tert-butyloxycarbonylaminomethyl-pyridyl)benzoyl]piperazine | 1.45 mmol, 90 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=1C(=NC=CC1)CNC(=O)OC(C)(C)C)=O | C32H33ClN4O5S
reactant | HCl | ˜4M, 2 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 1-(6-chloronaphth-2-ylsulphonyl)-4-[4-(2-aminomethyl-pyridyl)benzoyl]piperazine | 1.35 mmol, 75 mg | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CCN(CC1)C(C1=CC=C(C=C1)C=1C(=NC=CC1)CN)=O | C27H25ClN4O3S
